US04243672
A mixture of 5-n-propylthio-2-pyrrolylglyoxylic acid ethyl ester (2.4 g.) and sodium hydroxide (1.0 g.) in water (100 ml.) was heated on a steam bath for 3 hours. The solution was cooled, acidified to pH 1 with dilute hydrochloric acid and the product extracted with chloroform. Evaporation of the solvent and recrystallization from petroleum ether (B.P. 40°-60°) gave 5-n-propylthio-2-pyrrolylglyoxylic acid (0.7 g.) as yellow crystals, M.P. 87°. Found: C, 50.34; H, 5.21; N, 6.54. C9H11NO3S requires: C, 50.68; H, 5.20; N, 6.57%.

reactant | 5-n-propylthio-2-pyrrolylglyoxylic acid ethyl ester | 2.4 g | C(C)OC(C(=O)C=1NC(=CC1)SCCC)=O | C11H15NO3S
reactant | sodium hydroxide | 1.0 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 5-n-propylthio-2-pyrrolylglyoxylic acid | 0.7 g | C(CC)SC1=CC=C(N1)C(C(=O)O)=O | C9H11NO3S
